US06613786B2
2-Acetylthiophene (21.6 ml, 0.20 mol) was dissolved in 200 ml CHCl3 at 0° C. AlCl3 (40 g, 0.30 mol) was added in small portions at such a rate as to maintain the temperature at 5-10° C. The reaction mixture was then cooled to 0° C. and bromine, Br2 (11.34 ml, 0.22 mol) was added quickly. The reaction mixture was refluxed for two hours, then was allowed to cool and was poured into a mixture of 400 ml ice water and 50 ml concentrated HCl and stirred for 30 minutes. The organic layer was separated, dried over Na2SO4, and concentrated under vacuum. The crude product was distilled under vacuum to yield pure 4-bromo-2-acetylthiophene (27.6 g, 67%). MS (M−H)−: 204.85; 1H NMR (300 MHz, CDCl3) δ7.58 (1H, d, J=1.3 Hz), 7.53 (1H, d, J=1.3 Hz), 2.55 (3H, s).

reactant | 2-Acetylthiophene | 0.20 mol, 21.6 ml | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | AlCl3 | 0.30 mol, 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromine | BrBr | Br2
reactant | Br2 | 0.22 mol, 11.34 ml | BrBr | Br2
reactant | HCl | 50 ml | Cl | ClH
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-acetylthiophene | 27.6 g, 67% | BrC=1C=C(SC1)C(C)=O | C6H5BrOS
